US05702641
A Grignard reagent was prepared from 3,5-dibromobenzene (150 g, 0.78 mol), and dried Mg (18.9 g, 0.78 mol) in ether (600 ml), followed by slowly dropwise adding a 100 ml ether solution of ethylene oxide (100 g, 2.27 mol) to the reagent under -50° C. cooling, heating the mixture up to room temperature, stirring the reaction solution for one hour, adding it into 6N hydrochloric acid (500 ml), extracting the resulting product with toluene, washing the extraction solution successively with a saturated aqueous solution of sodium bicarbonate and water, drying over magnesium sulfate, distilling off the solvent, adding an aqueous HBr (47%) (500 ml) to the residue, refluxing the mixture for 7 hours, and distilling under reduced pressure using Vigoureux tube, to obtain a colorless, transparent liquid, 3,5-difluorophenetylbromide (41 g, 0.19 mol) (b.p. 52° to 53° C. under 2 Torr). The yield of this product from 3,5-difluorobromobenzene was 23.8%. A Grignard reagent was prepared from the product (20.0 g, 90.5 mmol) and dried Mg (2.2 g, 90.5 mmol) in ether (150 ml), cooling the agent down to 0° C., dropwise adding thereto a 130 ml ether solution of commercially available cyclohexanedione monoethylene ketal (14.2 g, 90.9 mmol), heating the reaction solution up to room temperature, stirring it for 3 hours, adding the reaction solution to 6N HCl (500 ml), extracting the product with toluene, washing the extract successively with a saturated, aqueous solution of sodium bicarbonate and water, drying over magnesium sulfate, distilling off the solvent, adding to the residue (20 g), toluene (100 ml) and Amberlist (1 g), refluxing the mixture for 5 hours while removing water formed by the reaction, by means of Dean Stark, adding ethyleneglycol (2 g), further refluxing for 2 hours, adding water (100 ml) to the reaction solution, washing the organic layer successively with a saturated aqueous solution of sodium bicarbonate and water, drying over magnesium sulfate, distilling off the solvent, purifying the residue according to column chromatography using toluene/ethyl acetate (4:1) as a developing solvent, hydrogenating the resulting purified substance in ethanol in the presence of 5% Pd/C catalyst (1.02 g), filtering off the catalyst, distilling off under reduced pressure, refluxing the resulting concentrate in formic acid (80 ml) for 3 hours, adding water (200 ml), extracting the product with toluene, washing the extraction liquid successively with a saturated aqueous solution of sodium bicarbonate and water, drying the toluene layer over magnesium sulfate, and distilling off toluene to obtain 4-(3,5-difluorophenylethyl)-1-cyclohexanone (10.1 g, 42.4 mmol). The yield of this product from 3,5-difluorobromobenzene was 46.6%.

reactant | 3,5-difluorobromobenzene | FC=1C=C(C=C(C1)F)Br | C6H3BrF2
reactant | cyclohexanedione monoethylene ketal | 90.9 mmol, 14.2 g | C1COC2(C(CCCC2)=O)O1 | C8H12O3
reactant | HCl | 6N, 500 ml | Cl | ClH
reactant | ethyleneglycol | 2 g | C(CO)O | C2H6O2
solvent | ether | 150 ml | CCOCC | C4H10O
solvent | ether | 130 ml | CCOCC | C4H10O
solvent | water | 100 ml | O | H2O
product | 4-(3,5-difluorophenylethyl)-1-cyclohexanone | 42.4 mmol, 10.1 g | FC=1C=C(C=C(C1)F)CCC1CCC(CC1)=O | C14H16F2O
